US05736539
4-(1-Naphthoyl)homopiperazine
Homopiperazine (0.60 g, 6.0 mmol), naphthalene carboxylic acid (0.51 g, 3.0 mmol), 1-hydroxybenzotriazole (0.45 g, 3 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDC.HCl) (0.63 g, 3.3 mmol) were added to dry, degassed dimethylformamide (7 mL). The pH of the reaction was adjusted to 7 with triethylamine, and the reaction stirred overnight. The dimethylformamide was distilled in vacuo, and the residue partitioned between ethyl acetate and water. The organic phase was washed with water and saturated sodium chloride solution, and dried over magnesium sulfate. The crude product was chromatographed on silica gel using chloroform/methanol as eluant and the title compound was isolated (0.100 g). NMR (CDCl3, 300 MHz) d 7.88 (2H, m), 7.50 (3H, m), 7.27 (1H, m), 4.08 (1H, m), 3.81 (1H, m), 3.28 (2H, m), 3.18 (1H, m), 3.00 (1H, m), 2.92 (1H, t, J=7 Hz), 2.72 (1H, t, J=7 Hz), 2.20 (1H, m), 1.58 (1H, m).

reactant | Homopiperazine | 6.0 mmol, 0.60 g | N1CCNCCC1 | C5H12N2
reactant | naphthalene carboxylic acid | 3.0 mmol, 0.51 g | C1(=CC=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | 1-hydroxybenzotriazole | 3 mmol, 0.45 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 3.3 mmol, 0.63 g | Cl.C(C)N=C=NCCCN(C)C
product | 4-(1-Naphthoyl)homopiperazine | C1(=CC=CC2=CC=CC=C12)C(=O)N1CCNCCC1 | C16H18N2O
